US07691893B2
Preparation 33: 1-(1,1-dimethylethyl) 3-methyl 4-{4-[(trifluoromethyl)oxy]phenyl}-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (P33)
To a mixture of 1-(1,1-dimethylethyl) 3-methyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydro-1,3(2H)-pyridinedicarboxylate (2.5 g, P2), {4-[(trifluoromethyl)oxy]phenyl}boronic acid (1.52 g) and Pd(PPh3)4 (265 mg) under nitrogen, toluene (34 mL), ethanol (25 mL) and Na2CO3 (2M, 19 mL) were added in sequence. The mixture was stirred at 80° C. for 2 hours then the reaction mixture was allowed to reach room temperature. The aqueous phase was extracted with Et2O (2 times), the combined organic phases were dried on anhydrous Na2SO4 and the solvent was evaporated obtaining a crude product that was purified by flash-chromatography (eluting with ethyl acetate/cyclohexane from 1:9 to 3:7) to give the title compound (2.5 g)

reactant | 1-(1,1-dimethylethyl) 3-methyl 4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 2.5 g | FC(S(=O)(=O)OC1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)(F)F | C13H18F3NO7S
reactant | {4-[(trifluoromethyl)oxy]phenyl}boronic acid | 1.52 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | toluene | 34 mL | C1(=CC=CC=C1)C | C7H8
reactant | Na2CO3 | 2M, 19 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 265 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-(1,1-dimethylethyl) 3-methyl 4-{4-[(trifluoromethyl)oxy]phenyl}-5,6-dihydro-1,3(2H)-pyridinedicarboxylate | 2.5 g | FC(OC1=CC=C(C=C1)C1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC)(F)F | C19H22F3NO5
